US08283353B2
4′-[(4-{trans-4-[1-(1-hydroxycyclobutyl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
To a mixture of 4′-[(4-{4-[1-(1-acetylcyclobutyl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (9.20 g), 30% aqueous hydrogen peroxide solution (77.5 mL) and chloroform (80 mL) was added trifluoroacetic acid anhydride (42.8 mL), and the mixture was stirred at 60° C. for 15 hr. The reaction mixture was cooled to room temperature, saturated aqueous sodium hydrogen carbonate solution and 1 M sodium thiosulfate were added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. To a solution of the obtained residue in tetrahydrofuran (15 mL)-methanol (15 mL) was added 2 N aqueous sodium hydroxide solution (15 mL), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was acidified with 1 N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=80/20→40/60 (volume ratio)] to give the title compound as a colorless amorphous compound (1.45 g, 17%).

reactant | 4′-[(4-{4-[1-(1-acetylcyclobutyl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 9.20 g | C(C)(=O)C1(CCC1)C(C)OC1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C36H41N5O3
reactant | hydrogen peroxide | 77.5 mL | OO | H2O2
reactant | trifluoroacetic acid anhydride | 42.8 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | 1 M | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 4′-[(4-{trans-4-[1-(1-hydroxycyclobutyl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | OC1(CCC1)C(C)O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C34H39N5O3
